US05994368
A mixture of 2-hydroxyaniline (2 g), crotonoylbenzene (8.03 g) and concentrated hydrochloric acid (8 ml) was refluxed for 24 hours. The mixture was neutralized with concentrated ammonia water under ice-cooling, and extracted with chloroform. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified according to a conventional manner to give 8-hydroxy-2-methyl-4-phenylquinoline (2.4 g) as an oil.

reactant | 2-hydroxyaniline | 2 g | OC1=C(N)C=CC=C1 | C6H7NO
reactant | crotonoylbenzene | 8.03 g | C(\C=C\C)(=O)C1=CC=CC=C1 | C10H10O
reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | ammonia water | O.N
product | 8-hydroxy-2-methyl-4-phenylquinoline | 2.4 g | OC=1C=CC=C2C(=CC(=NC12)C)C1=CC=CC=C1 | C16H13NO
